US05659059
(Preparation of 4'-(trans-4-isobutyl-4-silacyclohexyl)-4-difluoromethoxybiphenyl)
Preparation was conducted in the same manner as in Example 1 except for the fact that isobutyl bromide was used instead of n-propylbromide and that 4'-(4-chloro-4-silacyclohexyl)-4-difluoromethoxybiphenyl was used instead of 4'-(4-chloro-4-silacyclohexyl)-4-fluorobiphenyl.

reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
reactant | 4'-(4-chloro-4-silacyclohexyl)-4-difluoromethoxybiphenyl | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)F | C18H19ClF2OSi
product | 4'-(trans-4-isobutyl-4-silacyclohexyl)-4-difluoromethoxybiphenyl | C(C(C)C)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)F | C22H28F2OSi
